US08420642B2
2-Bromo-5-hydroxypyridine (3 mmol) is dissolved in DMF (10 ml) and NaH (1.4 eq., 60% suspension in liquid paraffin) is added. After 30 min cyclopentyl iodide (2.2 eq.) is added and the reaction solution is stirred 3 days at 120° C. The reaction solution is pored into water and extracted with methyl-tert.-butyl ether. The combined organic layers are dried over MgSO4 and the solvent is removed in vacuo. 2-Bromo-5-cyclopentyloxy-pyridine is obtained after column chromatography (heptane/ethylacetate) as yellow oil in a yield of 45%; HPLC (method C): 2.08 min; LC-MS (method A): 2.05 min, 241.95 (M+H+).

reactant | 2-Bromo-5-hydroxypyridine | 3 mmol | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | NaH | 1.4 eq. | [H-].[Na+]
reactant | cyclopentyl iodide | 2.2 eq. | C1(CCCC1)I | C5H9I
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Bromo-5-cyclopentyloxy-pyridine | yield of 45% | BrC1=NC=C(C=C1)OC1CCCC1 | C10H12BrNO
